US05506235
A mixture of 8-carboethoxy-9-hydroxy-1H-pyrazolo[3,4-f]quinoline (12.31 g, 47.8 mmol) and 10% aqueous sodium hydroxide (96 ml) was refluxed for 8 hours, at which time the dark-colored solution was treated with decolorizing carbon and filtered through diatomaceous earth (Celite™). The filtrate was neutralized with 6M HCl and the resulting precipitate isolated by filtration. The light brown solid was air dried to give 8-carboxy-9-hydroxy-1H-pyrazolo[3,4-f]quinoline (10.08 g, 92%).

reactant | 8-carboethoxy-9-hydroxy-1H-pyrazolo[3,4-f]quinoline | 47.8 mmol, 12.31 g | C(=O)(OCC)C=1C=NC2=CC=C3C(=C2C1O)NN=C3 | C13H11N3O3
reactant | sodium hydroxide | 96 ml | [OH-].[Na+]
product | 8-carboxy-9-hydroxy-1H-pyrazolo[3,4-f]quinoline | 10.08 g, 92% | C(=O)(O)C=1C=NC2=CC=C3C(=C2C1O)NN=C3 | C11H7N3O3
